US07875722B2
7-[(7S)-7-Amino-7-methylspiro[2.4]hept-5-yl]-1,4-dihydro-6-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-8-methoxy-4-oxo-3-quinolinecarboxylic acid dihydrate
An acetonitrile solution (800 mL) containing 6,7-difluoro-1,4-dihydro-1-[(1R,2S)-2-fluorocyclopropyl]-8-methoxy-4-oxo-3-quinolinecarboxylic acid (90 g), benzyl-(7S)-7-methyl-5-azaspiro[2.4]heptan-7-amine dihydrochloride (90 g), triethylamine (39.9 mL), and boron trifluoride-tetrahydrofuran complex (63.4 mL) was stirred at room temperature for 30 minutes. Boron trifluoride-tetrahydrofuran complex (6.3 mL) was further added to the solution, followed by stirring for one hour at the same temperature. Triethylamine (159.5 mL) was further added to the reaction mixture, followed by stirring at room temperature for 16 hours. The solvent was evaporated under reduced pressure, and methanol (900 mL) was added to the residue. The mixture was refluxed for 6 hours. After cooling to room temperature, the mixture was stirred at 40° C. for 5 hours under hydrogen in the presence of 5% Pd—C (4.5 g). Subsequently, triethylamine (90 mL) and water (225 mL) were added to the thus-obtained reaction mixture, followed by stirring at 40° C. for one hour. Pd—C was removed through filtration, and the filtrate was concentrated under reduced pressure. Water (720 mL) and methanol (180 mL) were added to the residue, and the pH of the product was adjusted to 8 by use of 5N aqueous sodium hydroxide solution. The thus-obtained mixture was stirred at 60° C. for 40 minutes, and the pH of the product was adjusted to 7 by use of 5N aqueous sodium hydroxide solution, followed by stirring at room temperature for one hour. The thus-produced crystals were recovered through filtration and dried, to thereby yield 120.9 g of the title compound as pale brown crystals (yield: 91%).

reactant | acetonitrile | 800 mL | C(C)#N | C2H3N
reactant | 6,7-difluoro-1,4-dihydro-1-[(1R,2S)-2-fluorocyclopropyl]-8-methoxy-4-oxo-3-quinolinecarboxylic acid | 90 g | FC=1C=C2C(C(=CN(C2=C(C1F)OC)[C@H]1[C@H](C1)F)C(=O)O)=O | C14H10F3NO4
reactant | benzyl-(7S)-7-methyl-5-azaspiro[2.4]heptan-7-amine dihydrochloride | 90 g | Cl.Cl.C(C1=CC=CC=C1)C1CC12CNC[C@]2(N)C
solvent | Triethylamine | 159.5 mL | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 39.9 mL | C(C)N(CC)CC | C6H15N
product | 7-[(7S)-7-Amino-7-methylspiro[2.4]hept-5-yl]-1,4-dihydro-6-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-8-methoxy-4-oxo-3-quinolinecarboxylic acid dihydrate | yield 120.9 g, yield: 91% | O.O.N[C@]1(CC(CC12CC2)C2=C(C=C1C(C(=CN(C1=C2OC)[C@H]2[C@H](C2)F)C(=O)O)=O)F)C | InChI=1S/C22H24F2N2O4.2H2O/c1-21(25)7-10(8-22(21)3-4-22)16-14(24)5-11-17(19(16)30-2)26(15-6-13(15)23)9-12(18(11)27)20(28)29;;/h5,9-10,13,15H,3-4,6-8,25H2,1-2H3,(H,28,29);2*1H2/t10?,13-,15+,21-;;/m0../s1
